US04127578
1-[2-(2-indanyl)ethyl]piperidine
To a solution of 18 gm. (0.057 mole) of p-toluene sulfonic acid, ester with 2-indanethanol in 100 ml. of toluene, 14 cc. (0.143 mole) of piperidine is added. The mixture is refluxed for 11.5 hrs. and treated with 250 ml. of water and 100 ml. of ether. The organic layer is separated, washed with water, dried (MgSO4) and evaporated in vacuo to give a dark colored oil. The oil is treated with ethereal - HCl to give 15.7 gm. (97%) of 1-[2-(2-indanyl)ethyl]piperidine hydrochloride. Crystallization from ethanol-ether gives 11.5 gm. (72%) of product as off-white crystals; m.p. 204.5°-207°, λNujolmax. 2700-2250 cm-1 (--NH+).

reactant | 2-indanethanol | C1C(CC2=CC=CC=C12)CCO | C11H14O
reactant | piperidine | 0.143 mole | N1CCCCC1 | C5H11N
reactant | HCl | Cl | ClH
reactant | 1-[2-(2-indanyl)ethyl]piperidine hydrochloride | Cl.C1C(CC2=CC=CC=C12)CCN1CCCCC1
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(2-indanyl)ethyl]piperidine | C1C(CC2=CC=CC=C12)CCN1CCCCC1 | C16H23N
